US05710297
Synthesis of 2,5-bis(2,4-cyclopentadien-1-ylidene)hexane
In a modified reaction procedure [a], 11.0 g (96.3 mmol) of 2,5-hexanedione and 12.7 g (193 mmol) of freshly cracked cyclopentadiene are dissolved in 60 ml of methanol, the solution is cooled to 0° C., and 8.60 g (121 mmol) of pyrrolidine are added. The reaction solution is stirred at 0° C. for 90 minutes, hydrolyzed using 5 ml of glacial acetic acid and 50 ml of water, and extracted twice with 70 ml of diethyl ether in each case, and the combined organic phases are washed with saturated sodium chloride solution and dried over magnesium sulfate, giving, after removal of the solvent in vacuo, 18.0 g (89%) of the difulvene as an orange-red, oily residue.

reactant | 2,5-hexanedione | 96.3 mmol, 11.0 g | CC(CCC(C)=O)=O | C6H10O2
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | pyrrolidine | 121 mmol, 8.60 g | N1CCCC1 | C4H9N
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2,5-bis(2,4-cyclopentadien-1-ylidene)hexane | C1(C=CC=C1)=C(C)CCC(C)=C1C=CC=C1 | C16H18
